US04487966
100 g of limonenemonoaldehyde (4-methylcyclohex-3-ene-β-methylpropanal), 300 ml of cyclohexane and 0.1 g of dimeric rhodium carbonyl-chloride were introduced into a stainless steel autoclave of 700 ml capacity and were heated to 145° C. under water gas (CO/H2), while stirring. The pressure was kept between 200 and 220 bar by regularly forcing in more water gas. After 2 hours, the pressure remained constant. The autoclave was cooled and let down and the reaction mixture was separated into its components by thin film distillation. 75 g of limonenedialdehyde (4-methyl-3-formylcyclohexane-β-methylpropanal) were obtained at 150° C. under 0.05 mbar, corresponding to a selectivity of 75%.

reactant | 4-methylcyclohex-3-ene β-methylpropanal | CC1=CCCCC1.CCCC=O
reactant | cyclohexane | 300 ml | C1CCCCC1 | C6H12
solvent | water | O | H2O
catalyst | rhodium carbonyl-chloride | 0.1 g | C(=O)(Cl)Cl.[Rh]
product | 4-methyl-3-formylcyclohexane β-methylpropanal | CC1C(CCCC1)C=O.CCCC=O | InChI=1S/C8H14O.C4H8O/c1-7-4-2-3-5-8(7)6-9;1-2-3-4-5/h6-8H,2-5H2,1H3;4H,2-3H2,1H3
